Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
CC: ___  
 
Major ___ or Invasive Procedure:
none.

 
History of Present Illness:
HPI: ___ y.o.m. from ___, ___, with 
dementia, C. diff, afib, p/w increasing confusion and agitation. 
Had been admitted to ___ for probably C. diff, ARF, 
leukocytosis, and encephalopathy d/t acute medical condition, 
sent to rehab on ___. Since being at rehab, he has assaulted 
workers, smeared feces on bed, spits out meds, attempts to get 
OOB, yells, unable to redirect. Seen by neurology in ___ on 
___ to help assess cognitive status, and they felt that he had 
either delerium or cerebrovascular changes, on top of some 
chronic deficits. Recommended supervision, MRI, and speak calmly 
to him. He is sent to ___ for further evaluation of agitation, 
altered MS.  
.  
ED COURSE: Vitals 97.4, 80, 156/96, 18, 97%RA. Head CT negative. 
CXR negative. UA negative. Urine culture sent.  
.  
Currently patient is very pleasant without any complaints, 
except for the smell of 'exhaust fumes everywhere, and I'm 
getting kind of tired of it'. No F/C/N/V/CP/SOB/abdominal 
pain/dysuria/pain. Does not know why he is here, and thinks he 
is in hotel. Circumferential talk.  
.  

 
Past Medical History:
 
HTN  
s/p CVA secondary to ICH with L hemiparesis  
AAA 4 cm  
COPD  
BPH  
 
Social History:
___
Family History:
Family History: Noncontributory
 
Physical Exam:
Physical Exam:  
96, 146/91, 87, 18, 96% RA  
Gen: NAD, calmly watching TV and talking to sitter  
HEENT: NCAT, PERRL, surgical pupils, EOMI  
Neck: no masses  
CV: RRR no MRG, nl S1, S2  
Resp: insp rhonchi at left base, o/w CTA  
Abd: NABS, soft, NTND, no guarding/rigidity/rebound  
Back: no CVA tenderness  
Ext: no CCE, 2+/4 symmetric pedal pulses  
Neuro: A&O x 1, thinks he's at hotel, month in ___, can't name 
president, doesn't know why he is here, but with all responses 
acts as though he knows and uses word plays to make the examiner 
think he is oriented. ie: who it the president, response: who 
was it yesterday?  
CN III-XII intact, ___ strength throughout except ___ in LUE  
Sensation: grossly intact  
Reflexes: 2+ biceps and patellar  
.  

 
Pertinent Results:
DATA:  
EKG: Afib, NA, LAD, no Q waves or ST changes  
.  
CXR:  
1. Aneurysmal dilatation and tortuocity of the thoracic aorta 
without  
comparison to evaluate for stability.  
2. Mild to moderate cardiomegaly.  
No infiltrate  
.  
CT Head:  
1. No acute intracranial abnormality detected.  
2. Diffuse periventricular white matter small vessel ischemic 
changes.  
3. Small right cerebellar peduncle and asymmetric right greater 
than left lateral ventricle ex vacuo dilatation, suggesting 
prior right cerebral infarction.  
.  
CXR.  negative for PNA.
.
UA. Negative.
.
TSH, B12, RPR - normal

___ WBC-15.1* RBC-4.91 Hgb-13.0* Hct-39.3* MCV-80* 
MCH-26.5* MCHC-33.1 RDW-15.6* Plt ___
___ Glucose-99 UreaN-14 Creat-0.9 Na-142 K-3.4 Cl-104 
HCO3-29 AnGap-12
 
Brief Hospital Course:
In summary, Mr. ___ is an ___ year old male with dementia, 
s/p CVA, HTN, A. fib, and recurrent C. diff, who is admitted for 
increasing confusion and agitation.  
.  
Agitation.  Patient appears to have dementia with worsening 
sundowning.  He was evaluated by neurology who feels the most 
likely diagnosis is Alzheimer's disease with worsening 
sundowning.  Patient appears to have had worsening delerium in 
setting of recurrent C. diff infections and PNA at OSH, but 
delerium seems to have resolved.  Toxic-metabolic/infectious 
workup was performed and was unrevealing.  Patient reamined 
afebrile with a normal WBC.  UA, Urine culture and CXR were 
negative.  Head CT showed no acute chagnes.  Electrolytes were 
within normal limits.  TSH, b12, RPR were unremarkable.  Patient 
was also evaluated by geriatrics who recommended treating 
agitation with zyprexa standing at 8PM and zyprexa prn for 
agitation.  Patient was also provided with trazadone as needed 
for sleep at 8PM.  He was provided frequent reorientation.
.  
Elevated WBC.  Patient had WBC on ___ of 15.1 (elevated from 
10 from day before).  He was afebrile.  Patient got UA and CXR 
which were preliminarily negative.  He should get a repeat CBC 
with differential on ___.
.
Hypokalemia.  Patient had chronically low potassium (3.2 on day 
of discharge).  He got daily potassium supplementation with 
little improvement in K.  He was started on PO potassium 
supplementation.
.
Atrial fibrillation.  Currently in A. fib.  His metoprolol was 
increased to 100 BID for improved rate control.  Heart rate was 
in ___ on day of discharge.  Patient is not on 
anticoagulation.  
.
HTN.  Metoprolol and amlodipine were increased for improved 
blood pressure control. 
.  
S/p CVA.  Patient was continued on aspirin.  
.  
H/o recurrent C.Diff.  Patient was continued on vanco taper for 
recurrent C. diff and cholestyramine. 
.  
Comm: HCP ___ ___  
 

 
Medications on Admission:
Meds:  
Vancomycin 125 mg PO daily x 7 days, ends ___  
Vancomycin 125 mg PO QOD x 7 days, ___  
Metoprolol 75 BID  
Doxazosin 2mg HS  
Questran 2mg PO BID  
Norvasc 5 mg daily  
Trazadone 25 mg TID prn for agitation  
Aspirin 81 mg daily  
Omeprazole 20 daily  
Proscar 5 daily  
Acidophilus 1 PO TID  
Seroquel 50 PO HS (stopped on ___  
Timolol daily  
Combivent 2 puffs TID  
 
Discharge Medications:
1. Metoprolol Tartrate 25 mg Tablet Sig: Four (4) Tablet PO BID 
(2 times a day).  
2. Cholestyramine-Sucrose 4 gram Packet Sig: 0.5 Packet PO BID 
(2 times a day).  
3. Amlodipine 5 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Timolol Maleate 0.5 % Drops Sig: One (1) Drop Ophthalmic BID 
(2 times a day).  
6. Ipratropium-Albuterol ___ mcg/Actuation Aerosol Sig: ___ 
Puffs Inhalation Q6H (every 6 hours) as needed.  
7. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed.  
8. Doxazosin 4 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  
9. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Donepezil 5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
11. Olanzapine 5 mg Tablet, Rapid Dissolve Sig: 0.5 Tablet, 
Rapid Dissolve PO BID (2 times a day) as needed.  
12. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: Two (2) Tab Sust.Rel. Particle/Crystal PO once a day.  
13. Olanzapine 5 mg Tablet, Rapid Dissolve Sig: 0.5 Tablet, 
Rapid Dissolve PO 8 ___ ().  
14. Vancomycin 125 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily): Please take 1 tab qod until ___.  Then take 1 tab 
q3days for 14 more days (until ___.  .  
15. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
16. Acidophilus     Capsule Sig: One (1) Capsule PO three times 
a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Dementia
Atrial fibrillation
Hypertension
s/p CVA
BPH

 
Discharge Condition:
fair

 
Discharge Instructions:
You were admitted for worsening agitation at your nursing home.  
You were treated with Zyprexa and trazadone.  
.
Please resume all medications as you were previously taking with 
the following exceptions.
* Please stop taking Seroquel
* Pleast take zyprexa 2.5 mg at 8 ___ daily and as needed for 
agitation
* Please take trazadone for sleep at 8PM nightly for one week 
and then have your doctors ___ whether you need to 
continue this medication
* Please take Donezepil daily
* Please take metoprolol at the increased dose of 100 twice 
daily
* Please take amlodipine at increased dose of 7.5 mg daily
.
Please call your physician for worsening agitation.  It is 
expected to have some worsening of agitation and sundowning at 
night when there is a change in your environment (for example 
moving from the hospital to the nursing home).  
.
Please call your physician or come to the emergency department 
for fevers, chills, chest pain, abdominal pain, shortness of 
breath, or any other concerning symptoms.
 
Followup Instructions:
___